US07968581B2
Step 3: 3-[2,5-Dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile
To a solution of 450 mg of 3-[(2-(2-propenyloxy)acetyl]benzonitrile (in EtOH (5 mL) and water (5 mL) 291 mg of potassium cyanide and ammonium carbonate are added. The mixture is refluxed one night at 55° C. The mixture is extracted with ethyl acetate, dried over magnesium sulfate and concentrated under vacuum to give the desired compound.

reactant | (2-(2-propenyloxy)acetyl]benzonitrile | C(C=C)OCC(=O)C1=C(C#N)C=CC=C1 | C12H11NO2
reactant | water | 5 mL, 291 mg | O | H2O
reactant | potassium cyanide | [C-]#N.[K+]
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | EtOH | 5 mL | CCO | C2H6O
product | 3-[2,5-Dioxo-4-[(2-propenyloxy)methyl]imidazolidin-4-yl]benzonitrile | O=C1NC(C(N1)(COCC=C)C=1C=C(C#N)C=CC1)=O | C14H13N3O3
